US05756485
To a mixture of methyl gentisate (16.8 g, 0.1 mol) and potassium carbonate (15.2 g, 0.11 mol) in 80 ml of DMF, under a nitrogen atmosphere at 80° C., was added chloropropyltrimethylsilane (16.6 g, 0.11 mol) dropwise over 20 minutes. The mixture was heated at 90° C. for 8 hours. It was cooled and poured into 200 ml of water. The mixture was extracted with diisopropyl ether. The organic phase was washed with water, dried over sodium sulphate and then concentrated. After chromatography on silica of the yellow oil obtained (eluent: 90/10 heptane/CH2 Cl2), 3.3 g of a clean fraction of methyl 2-hydroxy-5-(3-trimethylsilanylpropyloxy)benzoate were recovered.

reactant | methyl gentisate | 0.1 mol, 16.8 g | C(C=1C(O)=CC=C(O)C1)(=O)OC | C8H8O4
reactant | potassium carbonate | 0.11 mol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloropropyltrimethylsilane | 0.11 mol, 16.6 g | ClCCC[Si](C)(C)C | C6H15ClSi
reactant | water | 200 ml | O | H2O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | methyl 2-hydroxy-5-(3-trimethylsilanylpropyloxy)benzoate | OC1=C(C(=O)OC)C=C(C=C1)OCCC[Si](C)(C)C | C14H22O4Si
